US05481013
2-(4-phenoxyphenoxy)ethyl-4,4-difluorobut-3-enoate (Table 1, Compound No. 1.01)
A solution of 3.0 g of 4,4-difluorobut-3-enoic acid in 50 ml of diethyl ether is treated with 0.36 g of 4-pyrrolidinopyridine and 5.66 g of 2-(4-phenoxyphenoxy)ethanol, and the mixture is cooled to 0° C. A total of 5.58 g of N,N'-dicyclohexylcarbodiimide are added in portions at a temperature of between 0° C. and +5° C., the ice-cooling is removed, and the reaction mixture is allowed to come to room temperature in the course of 16 hours, with stirring. The N,N'-dicyclohexylurea which has precipitated as a solid is separated off and discarded. The supematant solution is evaporated. The residue obtained is purified by column chromatography on silica gel (eluent: hexane/ethyl acetate, 9:1). This gives pure 2-(4-phenoxyphenoxy)ethyl 4,4-difilorobut-3-enoate in the form of an oil (refractive index nD23 : 1.5315).

reactant | 4,4-difluorobut-3-enoic acid | 3.0 g | FC(=CCC(=O)O)F | C4H4F2O2
reactant | 4-pyrrolidinopyridine | 0.36 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | 2-(4-phenoxyphenoxy)ethanol | 5.66 g | O(C1=CC=CC=C1)C1=CC=C(OCCO)C=C1 | C14H14O3
reactant | N,N'-dicyclohexylcarbodiimide | 5.58 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(4-phenoxyphenoxy)ethyl-4,4-difluorobut-3-enoate | O(C1=CC=CC=C1)C1=CC=C(OCCOC(CC=C(F)F)=O)C=C1 | C18H16F2O4
